US05912245
To a solution of 10.97 g (0.015 mole) of diethylamine in 20 ml of acetone 4.58 g (0.015 mole) of 1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxalinesulfonyl chloride are added a temperature between 5° C. and 10° C., under stirring, the mixture is stirred at the same temperature for 3 hours and allowed to stand for 16 hours. Then 6 ml of acetic acid and 40 ml of water are added to the mixture, the separated crystals are filtered off, washed with water and acetone, dried and recrystallized from acetonitrile. Thus 3.50 g (59%) of N,N-diethyl-1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxaline sulfonamide are obtained, m.p.: >360° C.

reactant | diethylamine | 0.015 mole, 10.97 g | C(C)NCC | C4H11N
reactant | acetone | 0.015 mole, 20 ml, 4.58 g | CC(=O)C | C3H6O
reactant | 1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxalinesulfonyl chloride | [N+](=O)([O-])C1=C(C=C2NC(C(NC2=C1)=O)=O)S(=O)(=O)Cl | C8H4ClN3O6S
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
product | N,N-diethyl-1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxaline sulfonamide | 3.50 g, 59% | C(C)N(S(=O)(=O)C=1C=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O)CC | C12H14N4O6S
